US07427612B2
N-{3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-morpholin-4-yl-phenyl}-methanesulfonamide
To a solution of 1-{4-[4-(5-Amino-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone (50 mg, 0.12 mmol) and triethylamine (33 ul, 0.234 mmol) in dioxane (1.5 ml) was added a solution of methanesulfonyl chloride (15 mg, 0.13 mmol) in dioxane (0.5 ml). The mixture was stirred at room temperature for 3 hours. The reaction mixture was stirred in water. The yellow solid was filtered, washed with water and dissolved in CH2Cl2. The solution was dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed over silica gel eluent: Heptane/ethyl acetate 0%-100% (5 minutes) to provide the title compound (35 mg, 59%) as a yellow solid MS (m/e): 505.3 (M+H, 100%)

reactant | 1-{4-[4-(5-Amino-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone | 0.12 mmol, 50 mg | NC=1C=CC(=C(C(=O)N2CCN(CC2)C2=C(C=C(C=C2)C(C)=O)F)C1)N1CCOCC1 | C23H27FN4O3
reactant | triethylamine | 0.234 mmol, 33 ul | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.13 mmol, 15 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-{3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-morpholin-4-yl-phenyl}-methanesulfonamide | 35 mg, 59% | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C=CC1N1CCOCC1)NS(=O)(=O)C)F | C24H29FN4O5S
